Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.61455439751
[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5472833043800005
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.16415703144
[C:1]#[C:2].[O:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-1.99028567105
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:4][O:10][H:11].[H:1][O:2][C:3]([H:5])=[C:6]=[C:7]([H:8])[H:9],0.6256963795889999
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:4],3.22028163039
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.59032733605
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:9],2.08669161935
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-8.28974537293
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.70694381809
[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.62763009581
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.5943681532800005
[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-10.575060280399999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.79879916214
[C:12][H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-4.74170660276
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.08321453544
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.72187084845
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-0.807460723259
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9][H:10].[O:1]=[C:2][H:3],4.4850438883
[O:1]=[C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4],4.80992348265
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.54813860664
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8],2.95193509331
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10][H:11].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-1.59564097466
[C:1][C:2](=[O:3])[O:5][C:6]#[C:7][H:8].[H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8],-2.69966103542
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],-2.09421118
[H:1][C:2]1=[C:3]([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.52856727499
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-7.08523818085
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6],3.65368174204
